US07345056B2
13-(4-Chloro-benzenesulfonyl)-5-methoxy-4,6,13-triaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene MS (ES) m/e 380.2 (M+H)
Prepared as described in Example 5 using 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1-]nonan-3-one which was prepared as described in Example 34 and O-methylisourea hemisulfate.

reactant | 9-(4-chlorophenylsulfonyl)-2-(hydroxymethylene)-9-azabicyclo[3.3.1-]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(CC1CCC2)=O)=CO | C15H16ClNO4S
reactant | O-methylisourea hemisulfate | S(=O)(=O)(O)O.COC(N)=N.COC(N)=N
product | 13-(4-Chloro-benzenesulfonyl)-5-methoxy-4,6,13-triaza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NC(=NC3CC1CCC2)OC | C17H18ClN3O3S
